US08304557B2
tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-fluorophenyl}carbamate
To a solution of tert-butyl {2-fluoro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate (14.2 g, 49.5 mmol) in methanol (200 mL)/ethyl acetate (200 mL) was added palladium carbon (50% water-containing product, 1.50 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 12 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, ethyl acetate) to give the title compound (9.69 g, 75%) as a white solid.

reactant | tert-butyl {2-fluoro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 49.5 mmol, 14.2 g | FC1=C(C=C(C=C1)OC=1C=NC(=CC1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C16H16FN3O5
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium carbon | 1.50 g | [C].[Pd]
product | tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-fluorophenyl}carbamate | 9.69 g, 75% | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)F | C16H18FN3O3
